US05116971
2.3. Ethyl 4-amino-3-(2-chlorobenzoyl)-phenylacetate
32.2 g (0.1 mol) of 4-acetamido-3-(2-chlorobenzoyl)-phenylacetonitrile are dissolved in 340 ml of absolute ethanol. While cooling in ice, dry gaseous hydrogen chloride is passed in for one hour. The mixture is subsequently refluxed for 30 minutes and then stirred at room temperature for 24 hours. Five times the amount of water is added to the reaction mixture, which is left to stand for 15 minutes. Extraction with dichloromethane, drying and concentration of the organic phase is followed by working out by chromatography on silica gel results in 20.9 g (64% of theory) of the title compound as an oil.

reactant | 4-acetamido-3-(2-chlorobenzoyl)-phenylacetonitrile | 0.1 mol, 32.2 g | C(C)(=O)NC1=C(C=C(C=C1)CC#N)C(C1=C(C=CC=C1)Cl)=O | C17H13ClN2O2
reactant | hydrogen chloride | Cl | ClH
reactant | water | O | H2O
reactant | ethanol | 340 ml | C(C)O | C2H6O
product | Ethyl 4-amino-3-(2-chlorobenzoyl)-phenylacetate | NC1=C(C=C(C=C1)CC(=O)OCC)C(C1=C(C=CC=C1)Cl)=O | C17H16ClNO3
